US05981533
0.24 ml (4.8 mmol) of hydrazine hydrate is added dropwise to 1.00 g (4.08 mmol) of 3-(3-nitro-phenyl)-3-methylmercapto-2-cyano-acrylonitrile in 5.3 ml of methanol and the reaction mixture is then boiled for 1.5 hours. The reaction mixture is then cooled in ice-water and the precipitate is filtered off and washed with diethyl ether/isopropanol (2:1), yielding 5-amino-3-(3-nitro-phenyl)-1H-pyrazole-4-carbonitrile; TLC: Rf =0.4 (methylene chloride:methanol=10:1); TRet (Grad20-100)=10.8; MS: (M)+ =229, (M-NO2)+ =183.

reactant | hydrazine hydrate | 4.8 mmol, 0.24 ml | O.NN
reactant | 3-(3-nitro-phenyl)-3-methylmercapto-2-cyano-acrylonitrile | 4.08 mmol, 1.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=C(C#N)C#N)SC | C11H7N3O2S
solvent | methanol | 5.3 ml | CO | CH4O
product | 5-amino-3-(3-nitro-phenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C(=NN1)C1=CC(=CC=C1)[N+](=O)[O-])C#N | C10H7N5O2
